US07001897B2
(1R,5S,6S)-2-(1-{4-[(furan-2-carbonylamino)methyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt
(1R,5S,6S)-2-(1-{4-[(furan-2-carbonylamino)methyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[(furan-2-carbonylamino)methyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (640 mg,1.00 mmol) (obtained as described in Example 72(1)) in a mixture of tetrahydrofuran (32 ml) and distilled water (32 ml) was subjected to catalytic hydrogenation in the presence of 7.5% palladium on charcoal (640 mg) in a water bath (35° C.) for 2 hours. After checking the completion of the reaction, the reaction mixture was filtered and to the filtrate were added sodium hydrogencarbonate (84 mg), ethyl acetate and distilled water. The resulting mixture was shaken in a separatory funnel and the aqueous layer was separated and concentrated under reduced pressure. The residue was purified by chromatography on a Cosmosil column (eluant: distilled water→2% acetonitrile in distilled water→4% acetonitrile in distilled water→6% acetonitrile in distilled water→8% acetonitrile in distilled water→10% acetonitrile in distilled water→15% acetonitrile in distilled water) and the eluate was lyophilized to afford the desired compound (1R,5S,6S)-2-(1-{4-[(furan-2-carbonylamino)methyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt (218 mg, yield 41%) as a white solid.

reactant | (1R,5S,6S)-2-(1-{4-[(furan-2-carbonylamino)methyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[(furan-2-carbonylamino)methyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 1.00 mmol, 640 mg | [N+](=O)([O-])C1=CC=C(C[C@]2(C(=C(N3[C@H]2[C@H](C3=O)[C@@H](C)O)C(=O)[O-])SC3CN(C3)C=3SC=C(N3)CNC(=O)C=3OC=CC3)C)C=C1.[Na+].O1C(=CC=C1)C(=O)NCC=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]3N(C1C(=O)O)C([C@@H]3[C@@H](C)O)=O)C
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | (1R,5S,6S)-2-(1-{4-[(furan-2-carbonylamino)methyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt | 218 mg, yield 41% | [Na+].O1C(=CC=C1)C(=O)NCC=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | InChI=1S/C22H24N4O6S2.Na/c1-10-16-15(11(2)27)20(29)26(16)17(21(30)31)18(10)34-13-7-25(8-13)22-24-12(9-33-22)6-23-19(28)14-4-3-5-32-14;/h3-5,9-11,13,15-16,27H,6-8H2,1-2H3,(H,23,28)(H,30,31);/q;+1/p-1/t10-,11-,15-,16-;/m1./s1
